US06727264B1
N-{3-[1-({2-[(4-CHLOROPHENYL)SULFANYL]-3-THIENYL}METHYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE:
Prepared by Procedure F and Scheme R using 2-[(4- chlorophenyl)sulfanyl]-3-thiophenecarbaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 485.0 (M+H)+.

reactant | 2-[(4- chlorophenyl)sulfanyl]-3-thiophenecarbaldehyde | ClC1=CC=C(C=C1)SC=1SC=CC1C=O | C11H7ClOS2
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-{3-[1-({2-[(4-CHLOROPHENYL)SULFANYL]-3-THIENYL}METHYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE | ClC1=CC=C(C=C1)SC=1SC=CC1CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C26H29ClN2OS2
